US08466200B2
a) 4H-Imidazole-1-carboxylic acid adamantan-2-ylamide
A solution of 2-adamantylamine hydrochloride 3 g (15.98 mmol), carbonyldiimidazole 2.59 g (15.98 mmol), triethylamine 2.215 ml (15.98 mmol) in CH2Cl2 100 ml was stirred overnight at room temperature. Water was added, the organic phase separated, dried and concentrated to dryness yielding the title crude product 3.69 g (94%) as white solid.

reactant | 2-adamantylamine hydrochloride | 15.98 mmol, 3 g | Cl.C12C(C3CC(CC(C1)C3)C2)N
reactant | carbonyldiimidazole | 15.98 mmol, 2.59 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 15.98 mmol, 2.215 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 4H-Imidazole-1-carboxylic acid adamantan-2-ylamide | 3.69 g, 94% | C12C(C3CC(CC(C1)C3)C2)NC(=O)N2C=NCC2 | C14H21N3O
